US06252082B1
Methyl 6-methyl-3-nitro-2-oxo-4-[[4-(trifluoromethyl)phenyl]methyl]-1,2-dihydropyridine-1-acetate
This compound is prepared from 5.58 g (14.9 mmol) of methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate and 5 g (20.9 mmol) of [4-(trifluoromethyl)-phenyl]methyl bromide according to the method described in Example 1.5.

reactant | methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate | 14.9 mmol, 5.58 g | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H9F3N2O8S
reactant | [4-(trifluoromethyl)-phenyl]methyl bromide | 20.9 mmol, 5 g | FC(C1=CC=C(C=C1)CBr)(F)F | C8H6BrF3
product | Methyl 6-methyl-3-nitro-2-oxo-4-[[4-(trifluoromethyl)phenyl]methyl]-1,2-dihydropyridine-1-acetate | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])CC1=CC=C(C=C1)C(F)(F)F | C17H15F3N2O5
